US08975443B2
1-(Biphenyl-2-yl)-2,2,7,7-tetramethylphosphepan-4-one
To a 40-mL scintillation vial equipped with a magnetic stir bar was added 1-(biphenyl-2-yl)-2,2,6,6-tetramethylphosphinan-4-one (900 mg, 2.77 mmol, 1 equiv). The vial was sealed with a septa-top cap and then purged with nitrogen gas for 10 minutes. The solid was then dissolved with anhydrous, degassed dichloromethane (9 mL). In a separate 250-mL round bottom flask was added anhydrous, degassed dichloromethane (31 mL) which was cooled to −78° C. Boron trifluoride diethyl etherate (527 mL, 4.16 mmol, 1.5 equiv) was then added to the flask. The phosphine solution was transferred by cannula to the reaction flask over the course of 3 minutes using a positive pressure of nitrogen gas. After stirring the solution for 5 minutes, (trimethylsilyl)diazomethane (2.1 mL, 4.16 mmol, 1.5 equiv, 2 M in hexane) was added slowly over 3 minutes The bright yellow solution was stirred at −78° C. for an hour, and then diluted with 1 M aqueous hydrochloric acid (50 mL). The slurry was warmed to room temperature overnight. The solution was charged into a separatory funnel and the phases were partitioned. The dichloromethane layer was collected, and the aqueous layer was washed with dichloromethane (3×20 mL). The combined organic layers were then washed with aqueous saturated sodium bicarbonate (50 mL), dried over sodium sulfate, filtered, and concentrated in a rotary evaporator. Purification of the crude product oil by silica gel column chromatography on an Isco CombiFlash system (120-g column; gradient: 1.5 column volumes heptane, ramp up to 98:2 heptane:methyl tert-butyl ether over 0.5 column volumes, hold at 98:2 for 2 column volumes, ramp up to 75:25 heptane:methyl tert-butyl ether over 8 column volumes, hold at 75:25 for 2 column volumes) afforded the title compound as a white solid (578 mg, 98 area % by HPLC, 62% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.88 (dt, J=7.8, 1.5 Hz, 1H), 7.47-7.32 (m, 5H), 7.32-7.27 (m, 1H), 7.26-7.20 (m, 2H), 2.91 (dd, J=12.2, 7.6 Hz, 1H), 2.67-2.46 (m, 3H), 2.17-2.04 (m, 1H), 1.91 (dddd, J=21.9, 15.4, 6.4, 4.7 Hz, 1H), 1.20 (d, J=5.0 Hz, 3H), 1.16 (d, J=5.5 Hz, 3H), 1.02 (d, J=13.6 Hz, 3H), 0.98 (d, J=13.6 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ ppm 211.3, 151.5 (d, J=34 Hz), 143.2, 134.6 (d, J=3 Hz), 133.1 (d, J=29 Hz), 130.5 (d, J=6 Hz), 130.0 (d, J=4 Hz), 128.7, 126.9, 126.3, 125.7, 55.7 (d, J=17 Hz), 41.5, 37.0 (d, J=18 Hz), 35.2, 35.0, 33.2, 32.9, 32.6, 32.3, 31.9, 31.6, 27.3, 26.3. 31P NMR (CDCl3, 202 MHz) δ ppm 15.1 (s). HRMS (TOF-ESI+) calcd for [M, C22H27OP]+ 338.1800, found 338.1805.

reactant | 1-(biphenyl-2-yl)-2,2,6,6-tetramethylphosphinan-4-one | 2.77 mmol, 900 mg, 1 equiv | C1(=C(C=CC=C1)P1C(CC(CC1(C)C)=O)(C)C)C1=CC=CC=C1 | C21H25OP
reactant | Boron trifluoride diethyl etherate | 4.16 mmol, 527 mL, 1.5 equiv | B(F)(F)F.CCOCC
reactant | phosphine | P | H3P
reactant | (trimethylsilyl)diazomethane | 4.16 mmol, 2 M, 2.1 mL, 1.5 equiv | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | hydrochloric acid | 1 M, 50 mL | Cl | ClH
product | 1-(Biphenyl-2-yl)-2,2,7,7-tetramethylphosphepan-4-one | 578 mg, 62% yield | C1(=C(C=CC=C1)P1C(CC(CCC1(C)C)=O)(C)C)C1=CC=CC=C1 | C22H27OP
